US07494964B2
110 ml of 25 per cent strength ammonium hydroxide solution are added to 1-(4-chloropyridin-2-yl)-5-pyridin-2-ylpentane-1,3,5-trione obtained as described above in 100 ml of isopropanol and the mixture is boiled under reflux for 4.5 hours. At room temperature, the pH is brought to 5 with 6N hydrochloric acid and the mixture is filtered. The residue is filtered through silica gel (eluent: chloroform/methanol/ammonium hydroxide solution 4:1:0.1) and evaporated. After recrystallization from acetone, 4-chloro-1′H-[2,2′;6′,2″]terpyridin-4′-one is obtained as a grey solid which is processed further without any particular purification steps. 1H-NMR (360 MHz, DMSO-de): 8.728.63 (m, 2H); 8.62-8.53 (m, 2H); 7.98 (ddd, 1H, J=7.7,7.7,1.8 Hz); 7.87 (d, 1H, J=2.2 Hz); 7.83 (d, 1H, J=2.2 Hz); 7.59 (dd, 1H, J=5.4,2.2 Hz); 7.43-7.51 (m, 1H); 2.07 (s, 1 H).

reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 1-(4-chloropyridin-2-yl)-5-pyridin-2-ylpentane-1,3,5-trione | ClC1=CC(=NC=C1)C(CC(CC(=O)C1=NC=CC=C1)=O)=O | C15H11ClN2O3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-chloro-1′H-[2,2′;6′,2″]terpyridin-4′-one | ClC1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC=C1 | C15H10ClN3O
